US07687515B2
A: 2-(chloromethyl)-6-(3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile
To a solution of 3,4-diamino-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile (1.6 g) and 2-chloro-1,1,1-triethoxyethane (3.41 g,) in acetonitrile (40 ml) was added ytterbium triflate (180 mg, 5 mol %) and the mixture heated to reflux over-night. The mixture was concentrated under reduced pressure before partitioning between ethyl acetate (100 ml) and water (100 ml). The organic layer was dried over sodium sulfate and concentrated before addition of diethylether (20 ml). The precipitate was filtered and dried under a stream of air to afford the title compound. 1H NMR (MeOD) δ 8.40 (s, 1H) 8.32-8.38 (m, 2H) 8.13-8.15 (d, 2H) 7.68-7.78 (m, 2H) 4.96 (s, 2H). MS m/z 337.5, 339.1 (M+1).

reactant | 3,4-diamino-6-(3-trifluoromethyl-phenyl)-pyridine-2-carbonitrile | 1.6 g | NC=1C(=NC(=CC1N)C1=CC(=CC=C1)C(F)(F)F)C#N | C13H9F3N4
reactant | 2-chloro-1,1,1-triethoxyethane | 3.41 g | ClCC(OCC)(OCC)OCC | C8H17ClO3
reactant | ytterbium triflate | 180 mg | [O-]S(=O)(=O)C(F)(F)F.[Yb+3].[O-]S(=O)(=O)C(F)(F)F.[O-]S(=O)(=O)C(F)(F)F
solvent | acetonitrile | 40 ml | C(C)#N | C2H3N
product | 2-(chloromethyl)-6-(3-(trifluoromethyl)phenyl)-1H-imidazo[4,5-c]pyridine-4-carbonitrile | ClCC=1NC2=C(C(=NC(=C2)C2=CC(=CC=C2)C(F)(F)F)C#N)N1 | C15H8ClF3N4
